US04284634
A mixture of isopropyl 2-methyl-4-(2-nitrophenyl)-5-methoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate (3.88 g), hydroxylamine hydrochloride (0.7644 g) and sodium acetate (1.0664 g) in acetic acid (20 ml) was stirred at room temperature for an hour to form isopropyl 2-methyl-4-(2-nitrophenyl)-5-methoxycarbonyl-6-hydroxyiminomethyl-1,4-dihydropyridine-3-carboxylate. To the reaction mixture was added acetic anhydride (3.37 g) and the mixture was heated at 95° to 100° C. for 6 hours. After removal of the acetic acid, water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with water, an aqueous sodium bicarbonate solution and water in turn, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residual oil (3.69 g) was chromatographed on a column of silica-gel (100 g), and eluted with a mixture of benzene and ethyl acetate (5:1, v/v) to give an oil of isopropyl 2-methyl-4-(2-nitrophenyl)-5-methoxycarbonyl-6-cyano-1,4-dihydropyridine-3-carboxylate (2.0 g), which was left in a refrigerator for several days to crystallize. Recrystallization from methanol gave pure crystals, m.p. 175.5°-176.5° C.

reactant | isopropyl 2-methyl-4-(2-nitrophenyl)-5-methoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 3.88 g | CC=1NC(=C(C(C1C(=O)OC(C)C)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C=O | C19H20N2O7
reactant | hydroxylamine hydrochloride | 0.7644 g | Cl.NO
reactant | sodium acetate | 1.0664 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | isopropyl 2-methyl-4-(2-nitrophenyl)-5-methoxycarbonyl-6-hydroxyiminomethyl-1,4-dihydropyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OC(C)C)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C=NO | C19H21N3O7
